US08372841B2
N-[(E)-5-Hydroxy-2-adamantyl]-2-methyl-2-{4-[5-(trifluoromethyl)pyridin-2-yl]piperazin-1-yl}propanamide
A solution of 2-methyl-2-[4-(5-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-propionic acid (159 mg, 0.5 mmoles) from Example 14C in DCM (5 mL) and DIPEA (0.5 mL) was treated with hydroxybenzotriazole hydrate (HOBt) (84 mg, 0.6 mmoles), 5-hydroxy-2-adamantamine (100 mg, 0.6 mmoles) from Example 13A and 15 minutes later with (3-dimethylaminopropyl)-3-ethylcarbodiimide HCl (EDCI) (115 mg, 0.6 mmoles). The mixture was stirred overnight at room temperature after which the DCM was removed under reduced pressure and the residue was partitioned between water and ethyl acetate. The aqueous layer was extracted with ethyl acetate and the combined organic extracts washed with saturated sodium bicarbonate, water, dried (MgSO4) and filtered. The filtrate was concentrated under reduced pressure and the crude product purified (silica gel, 10-40% acetone in hexane) to provide the title compound as a white solid. 1H NMR (300 MHz, CDCl3) δ 8.41 (s, 1H), 7.67 (m, 2H), 6.66 (d, J=9.1 Hz, 1H), 4.0 (d, J=7.8 Hz, 1H), 3.66 (m, 4H), 2.64 (m, 4H), 2.23-2.1 (m, 3H), 1.9-1.63 (m, 10H), 1.25 (s, 6H); MS (APCI+) m/z 467 (M+H)+.

reactant | 2-methyl-2-[4-(5-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-propionic acid | 0.5 mmoles, 159 mg | CC(C(=O)O)(C)N1CCN(CC1)C1=NC=C(C=C1)C(F)(F)F | C14H18F3N3O2
reactant | hydroxybenzotriazole hydrate | 0.6 mmoles, 84 mg | O.OC1=CC=CC=2NN=NC21
reactant | (3-dimethylaminopropyl)-3-ethylcarbodiimide HCl | 0.6 mmoles, 115 mg | Cl.CN(CCCN=C=NCC)C
reactant | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DIPEA | 0.5 mL | CCN(C(C)C)C(C)C | C8H19N
product | N-[(E)-5-Hydroxy-2-adamantyl]-2-methyl-2-{4-[5-(trifluoromethyl)pyridin-2-yl]piperazin-1-yl}propanamide | CC(C)(C(=O)NC1C2CC3CC1CC(C3)(C2)O)N4CCN(CC4)C5=NC=C(C=C5)C(F)(F)F | C24H33F3N4O2
